US08431569B2
Step 3. 7-(2-Aminopyrimidin-5-yl)-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide
A mixture of 7-chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide (7.1 g, 20.0 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrimidin-2-ylamine (6.2 g, 28 mmol), Pd2(dba)3 (1.83 g, 2.0 mmol), tricyclohexylphosphine (1.4 g, 5.0 mmol), and K3PO4 (1.27 M in water, 53.8 mL, 68.3 mmol) in dioxane (400 mL) was purged with nitrogen for 20 min, heated to 100° C. for 4 h, cooled to room temperature, and concentrated. The residue was diluted with 50% brine, and extracted with EtOAc (×3). The combined organics were washed with brine, dried (sodium sulfate) and purified by flash chromatography to give the title compound as a white solid. 1H NMR (500 MHz, CD3SOCD3) δ 11.50 (s, 1H); 8.61 (s, 2H); 8.45 (s, 1H); 8.43 (d, 1H); 7.92 (s, 1H); 7.83 (br s, 1H); 7.49 (dd, 1H); 7.18 (br s, 1H); 6.78 (s, 2H); 6.51 (d, 1H); 3.63 (q, 1H); 1.38 (m, 2H); 0.51 (m, 2H); 0.36 (m, 6H). LRMS (APCI) calc'd for (C23H23N7O) [M+H]+, 414.2. found 414.1.

reactant | 7-chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide | 20.0 mmol, 7.1 g | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3NC(C3CC3)C3CC3)C(=O)N | C19H19ClN4O
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrimidin-2-ylamine | 28 mmol, 6.2 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | tricyclohexylphosphine | 5.0 mmol, 1.4 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 68.3 mmol, 1.27 M, 53.8 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 2.0 mmol, 1.83 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(2-Aminopyrimidin-5-yl)-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide | NC1=NC=C(C=N1)C=1C=CC=2C3=C(NC2C1)C(=CN=C3NC(C3CC3)C3CC3)C(=O)N | C23H23N7O
